Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Falls
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M with history of Alzheimer's dementia, depression, and
HTN, who presents after multiple recent falls, as well as 
concern
for recent rapid progression of his neurological decline. 

History was obtained from his family, as patient was not able to
participate in conversation, as he is almost completely
non-verbal. Per his wife and children, the patient has had a
gradual cognitive decline over the past several years, but they
noticed an acute change about 1 week prior. At his most recent
baseline, they note that he had some progressive mobility issues
and trouble getting around house, but that he was still able to
walk around and would occasionally say a few words. He has been
home bound since ___. In ___, he also fell and
presented to ___, where he was thought to be dehydrated
and given IVF, subsequently discharged to home. He subsequently
was at his baseline, although of note, he was started on a trial
of Sinemet given some Parkinsonian features on exam (shuffling
gate, morning stiffness, hoarseness),although he only took this
for ___ days and then stopped taking it. 1 week ago, his family
reports that he began speaking much less and was getting less
mobile. He then fell on ___, when he tried to sit and 
"missed"
the couch. He fell again on ___, when he fell backwards after
standing from the toilet, reporting dizziness throughout. He
presented to the ED after this fall, and was given IV
rehydration, with sxs attributed to gait instability and
dehydration; he was discharged with recommendation for home ___,
with 24-hour care. He then he fell again on ___. Fall on
___ was witnessed; he fell when standing from a seated
position, landed on his buttocks and struck his head on a
cabinet. No loss of consciousness. Family again brought patient
to ED after this fall.

In the ED, patient was noted to have a laceration to the
posterior aspect of his scalp after the fall. He had CT spine,
which showed no fracture, and CT head, which showed no evidence
of acute intracranial process, but was limited by motion. CXR
showed no definite pneumonia, low lung volumes,bilateral
calcified pleural plaques suggestive of prior asbestos exposure.
He became notably agitated in ED, tried to pull out IV, and
received olanzapine and Ativan, after which he was heavily
sedated and difficult to arouse. Also given 1L NS. He was
evaluated by neurology given c/f stroke, and they recommended
admission for ___ services; MRI was considered, but 
was
deferred, given that patient would likely not be able to 
tolerate
study. Orthostatics were noted to be wnl. Electrolytes were
notable from trop <0.01, normal electrolytes, CBC notable only
for Hgb 13.5, UA unremarkable, Flu swab negative. 

Upon arrival to the floor, the family endorses the above 
history.
They feel that the patient's recent decline, especially his
recurrent falls, seems to be acute change, much more pronounced
than his prior gradual decline, although they note that even
before this past week, he had been speaking very little at home,
and had been spending all of his time watching television and
sitting in his chair. He has reportedly been "locking" his legs
more frequently when he stands, which seems to be related to his
falls. He also has had very poor liquid PO intake, which they
attribute to anxiety regarding dizziness and frequent falls
whenever he uses the bathroom. His solid PO intake has been
normal. Of note, family noted that he had not had a bowel
movement in about 1 week prior to coming to hospital, but he did
have a small BM overnight in ED, as well as a large BM shortly
after arrival to floor. Has occasional urinary incontinence. 
They
wonder if any acute medical change could be contributing to 
this,
but also understand that he has severe underlying dementia, and
that primary goal is to get him home and keep him comfortable,
with 24-hour services. 

REVIEW OF SYSTEMS:
Complete ROS from family obtained and is otherwise negative.
Patient unable to participate in discussion. 

 
Past Medical History:
ALZHEIMER'S DISEASE                                             
DEPRESSION                                                      
ASBESTOS EXPOSURE                                               
B12 DEFICIENCY                                                  
BENIGN PROSTATIC HYPERTROPHY                                    
ELEVATED CHOLESTEROL                                            
HYPERTENSION                                                    
OSTEOARTHRITIS 
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GENERAL: Arousable to voice, somnolent. NAD. Frequent tremors in
b/l upper extremities. 
HEENT: Laceration on posterior scalp. Dry MM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation anteriorly and laterally. No
wheezes, rhonchi or rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Wearing 
compression
boots and socks. 
SKIN: Warm, dry skin on forearms, no rash.  
NEUROLOGIC: Patient would not follow commands, so could not
assess a full neurological exam. Moving all extremities with
purpose. Unable to assess gait.

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 1200)
    Temp: 97.6 (Tm 98.5), BP: 123/70 (123-183/70-80), HR: 66 
(60-69), RR: 18 (___), O2 sat: 94% (91-97), O2 delivery: Ra 
GENERAL: Arousable to voice, very somnolent. NAD. No tremors
noted while sleeping.  
HEENT: Laceration on posterior scalp. Dry MM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation anteriorly and laterally. No
wheezes, rhonchi or rales. No increased work of breathing.
EXTREMITIES: No clubbing, cyanosis, or edema. Wearing 
compression
boots and socks. 
SKIN: Warm, dry skin on forearms, no rash.  
NEUROLOGIC: Patient somnolent, would not verbalize, unable to 
complete full neurological assessment
 
Pertinent Results:
ADMISSION LABS:
___ 03:05PM BLOOD WBC-7.5 RBC-4.33* Hgb-13.5* Hct-41.9 
MCV-97 MCH-31.2 MCHC-32.2 RDW-12.7 RDWSD-45.2 Plt ___
___ 03:05PM BLOOD Neuts-71.2* Lymphs-13.5* Monos-11.6 
Eos-3.1 Baso-0.3 Im ___ AbsNeut-5.33 AbsLymp-1.01* 
AbsMono-0.87* AbsEos-0.23 AbsBaso-0.02
___ 03:05PM BLOOD Glucose-102* UreaN-30* Creat-1.0 Na-141 
K-4.7 Cl-106 HCO3-24 AnGap-11
___ 03:05PM BLOOD Calcium-8.9 Phos-2.8 Mg-2.1
___ 03:05PM BLOOD cTropnT-<0.01

DID NOT CHECK LABS FOR REST OF ADMISSION

Imaging: 
___-SPINE W/O CONTRAST 
IMPRESSION:  
No acute fracture or traumatic malalignment. 
 
___ Imaging CT HEAD W/O CONTRAST 
IMPRESSION: 
1. Mid portion portions of the brain and skull base are limited 
for evaluation 
due to motion. 
2. No gross evidence of acute intracranial process.  No evidence 
intracranial 
hemorrhage or fracture. 

___ Imaging CHEST (SINGLE VIEW) 
IMPRESSION:  
No definite pneumonia.  Low lung volumes.  Bilateral calcified 
pleural plaques suggestive of prior asbestos exposure. 

 
Brief Hospital Course:
___ M with a history of progressive dementia, depression, and
HTN, who presents after a fall. He was agitated in ED, and was
admitted to medicine for work-up of failure to thrive, and for
assistance with arranging 24-hour home services. 

ACUTE ISSUES:
=============
# Recurrent Falls
# Cognitive Decline/Alzheimer's Disease
# Failure to Thrive 
Patient presents after recurrent falls and dizziness, in the
setting of gait instability and reduced liquid PO intake. Has
progressive cognitive decline with recent concern for some
Parkinsonian features on exam, but failed trial of Sinemet. No
findings on imaging or labwork to suggest any acute metabolic or
infectious process that could be contributing to his clinical
picture. CT head in ED showed no acute intracranial process. 
Neurology team evaluated the patient in the ED, and felt that a 
stroke was unlikely; instead, his symptoms were likely 
attributable to his underlying dementia, with a possible 
concomitant viral URI contributing to his acute decline. We 
discussed the utility of continuing the patient's home 
medications of galantamine and memantine; ultimately, these were 
felt very unlikely to change the patient's 
clinical status/disease course, so they were discontinued with 
the thought that risk of side effects outweighed potential 
benefits (galantamine discontinued, memantine tapered). Patient 
was seen by ___, who agreed with family's preferred plan of 
getting patient home with 24-hr services. CM and SW teams worked 
to ensure that the patient and family had access to various 
services at home, including home ___, a hospital bed, and a 
wheelchair.

# Agitation 
Agitation likely attributable to delirium, as patient at high
risk of hospital-induced delirium and disorientation from his
underlying dementia. Labwork unrevealing in ED, no evidence of
any metabolic derangement or infectious process. Constipation 
and
urinary retention also possibly contributing (see below). 
Overall, the patient's mental status imrpoved slightly, with 
better management of his constipation and urinary retention. He 
was maintained on delirium precuations, with frequent 
reorientation. He was started on ramelteon as a sleep aid. He 
did receive olanzapine and alprazolam in the ED, but these were 
held after admission, out of concern for causing 
over-somnolence. 

# Oropharyngeal Dysphagia
# Nutrition
On admission, family noted concerns about patient difficulties 
with swallowing.  Patient evaluated by speech and swallow team 
on ___, and recommended to be made NPO, given his oropharyngeal 
dysphagia, remarkable for absent bolus acceptance and initiation 
of swallow. Discussed with family, who feel that he has made 
progress over his time in the hospital, notable was able to eat 
macaroni and Jell-O. They would prefer to accept aspiration 
risks and allow him to eat and drink, and stated that being NPO 
would not be within their goals of care. He was thus maintained 
on a dysphagia diet, with pureed solids, nectar prethickened 
liquids. Magic Cup was also started, for nutritional 
supplementation. Speech and Swallow evaluated the patient again 
on ___, when he was more awake; they noted persistent concerns 
for risk of aspiration, but agreed with continuing diet of 
nectar-thick liquids and pureed solids, with strict 1:1 assist 
and precautions. 

# Goals of Care 
Had long discussion with family on ___ regarding patient's
wishes. They confirmed that he would not want heroic measures. 
If
something medical is found to explain his recent decline, they
would want that addressed, but otherwise understand that this is
a progressive disease with no cure. Discussed that his prognosis
is difficult to fully assess at this time, but that he would
likely qualify for hospice benefits; they believe that this 
would
be within his wishes and would like to discuss this further.
Confirmed DNR/DNI status, no escalation of care to ICU, but okay
to hospitalize. Stated goal is to get him home as quickly as 
possible,
with 24-hr services. MOLST completed on ___ confirming these 
wishes. Patient's family was able to arrange for him to have 
24-hr care, starting on ___, He will also have a 
visiting palliative nurse from ___ starting ___, ___. 

# Constipation
Suspected that constipation was likely contributing to patient's 
decline, as he had not had a BM in 1 week prior to admission. 
Started on aggressive bowel regimen, including Senna, Colace, 
and MiraLax. Was having daily BMs by time of discharge. 

# Urinary Retention
Suspected that urinary retention from underlying, undiagnosed 
BPH may have been playing a role in patient's AMS. Started on 
tamsulosin, and required intermittent straight catheterization 
while hospitalized. 

CHRONIC ISSUES:
===============
# Depression
Continue sertraline. 

# HTN
Patient's goal BP is < 150/90, given his age, frailty, and
frequent falls. Given that his blood pressure would go as high 
as 190 systolic overnight, his home medications (lisinopril 40mg 
daily,  amlodipine 2.5mg daily) were continued.   

44 minutes was spent seeing and examining the patient and 
coordinating discharge.

TRANSITIONAL ISSUES:
==================
[ ] Patient was taking memantine and galantamine at home. 
Galantamine was discontinued, as it was felt it was unlikely to 
significant affect patient's mental status, and that risk likely 
outweighed benefit. Will also plan to taper off memantine, 
decreasing dose to 10mg daily x 1 week (___), then 5mg 
daily x1 week (___), then stop all together. 
[ ] 4 staples placed on laceration on patient's head, which he 
sustained during his fall on ___. These should be removed on 
___ by ___. 
[ ] Patient started on tamsulosin for suspected urinary 
retention, which may have been contributing to his 
confusion/delirium. 
[ ] Patient discharged on dysphagia diet (pureed solids, nectar 
thick liquids) given concerns for oropharyngeal dysphagia. 
[ ] Patient required intermittent straight catheterization while 
hospitalized (on average 1x daily), and may continue to require 
this at home. 
[ ] Patient was set up with wheelchair and hospital bed at home. 

[ ] Consider transition to hospice going forward, if within 
patient and family's stated GOC. 

#CODE: DNR/DNI, MOLST completed. No escalation of care to ICU, 
but okay to transfer back to hospital. 
#CONTACT/HCP: 
___ 
___: Wife 
Phone number: ___ 
Cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. galantamine 16 mg oral QAM 
3. Lisinopril 40 mg PO DAILY 
4. Memantine 10 mg PO BID 
5. Sertraline 150 mg PO DAILY 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Senna 17.2 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 325 mg 2 tablet(s) by mouth up to 4 times 
daily Disp #*120 Tablet Refills:*2 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*60 Capsule Refills:*2 
3.  Memantine 10 mg PO DAILY Duration: 7 Days 
Take 10mg daily for 1 week (___), then take 5mg daily for 
1 week (___), then stop   
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 17 g capful 
by mouth once daily Refills:*0 
5.  Ramelteon 8 mg PO QHS 
RX *ramelteon [Rozerem] 8 mg 1 tablet(s) by mouth once daily at 
bedtime Disp #*30 Tablet Refills:*0 
6.  Tamsulosin 0.4 mg PO DAILY 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth once daily Disp #*30 
Capsule Refills:*2 
7.  amLODIPine 2.5 mg PO DAILY  
8.  Lisinopril 40 mg PO DAILY  
9.  Senna 17.2 mg PO QHS  
10.  Sertraline 150 mg PO DAILY  
11.wheelchair
Standard manual wheelchair, seat back, cushion, elevating leg 
rests, and anti tip and break extensions

Dx: Dementia/Alzheimer's ICD 10: 30.9
Px: good, ___: 13 months 
12.hospital bed
Standard issue hospital bed

Dx: Dementia/Alzheimer's ICD 10: 30.9
Px: good, ___: 13 months 
13.___ lift
___ lift

Dx: Dementia/Alzheimer's ICD 10: 30.9
Px: good, ___: 13 months 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS 
================= 
Fall 
Alzheimer's Dementia  
 
SECONDARY DIAGNOSIS 
=================== 
Urinary Retention  
Constipation  
Hypertension 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Mr. ___, 

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You fell at home, and came to the ER for evaluation

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had a wound at the back of your head, so this was repaired 
with staples. 
- You were initially agitated and confused in the ER, so we gave 
you some medications to help you calm down. 
- We realized that you were constipated, and we started you on 
medications to help you have more regular bowel movements. 
- We realized that you were retaining urine, so we started you 
on a new medication called Flomax to help you go to the 
bathroom. 
- We stopped two of your medications (galantamine and memantine) 
that likely weren't helping your confusion at all.  
- We started you on a new medication to help you sleep. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___